US07618959B2
e) 2-Oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]thiazine-7-carboxaldehyde
7-Hydroxymethyl-1H-pyrido[2,3-b][1,4]thiazin-2-one (1.22 g) was oxidized with manganese dioxide by the method of Preparation (14c) to afford a solid (0.7 g).

reactant | 7-Hydroxymethyl-1H-pyrido[2,3-b][1,4]thiazin-2-one | 1.22 g | OCC1=CC2=C(SCC(N2)=O)N=C1 | C8H8N2O2S
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 2-Oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]thiazine-7-carboxaldehyde | 0.7 g | O=C1NC2=C(SC1)N=CC(=C2)C=O | C8H6N2O2S
